US05449812
A suspension of 190.0 g (0.77 mol) of 2-carboxy-5-nitrobenzenesulfonic acid, 10 ml of DMF and 250 ml (3.43 mol) of thionyl chloride is heated at boiling for 3 h. After separating off the insoluble constituents by filtration, the filtrate is concentrated. 200 ml (4.94 mol) of methanol are added to the residue which results. When addition is complete the reaction mixture is cooled to 0° C. The solid which precipitates is filtered off and dried. 70.9 g (35.3% of theory) of colorless, crystalline 2-methoxycarbonyl-5-nitrobenzenesulfonic acid (m.p.: 92°-94° C.) are thus obtained. By distilling off the volatile components from the mother liquor, a second fraction (62.5 g, 31.1% of theory) is obtained.

reactant | 2-carboxy-5-nitrobenzenesulfonic acid | 0.77 mol, 190.0 g | C(=O)(O)C1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)O | C7H5NO7S
reactant | thionyl chloride | 3.43 mol, 250 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 4.94 mol, 200 ml | CO | CH4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-methoxycarbonyl-5-nitrobenzenesulfonic acid | COC(=O)C1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)O | C8H7NO7S
